US08623859B2
5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-{2-[4-(pyrrolidin-1-ylmethyl)phenyl]ethyl}furan-3-carboxamide
The title compound was prepared according to general procedure AC using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (76 mg, 0.22 mmol), EDCI (50 mg, 0.26 mmol), HOBt (35 mg, 0.26 mmol), TEA (0.030 mL, 0.22 mmol) and 2-[4-(pyrrolidin-1-ylmethyl)phenyl]ethanamine (40 mg, 0.20 mmol) in DMF (5 mL). A portion of the crude product was purified using prep method A.

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.22 mmol, 76 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | EDCI | 0.26 mmol, 50 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.26 mmol, 35 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-[4-(pyrrolidin-1-ylmethyl)phenyl]ethanamine | 0.20 mmol, 40 mg | N1(CCCC1)CC1=CC=C(C=C1)CCN | C13H20N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-{2-[4-(pyrrolidin-1-ylmethyl)phenyl]ethyl}furan-3-carboxamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)NCCC1=CC=C(C=C1)CN1CCCC1)C | C29H37N3O5S
